US07074791B2
Step 4: Preparation of 7-(2.4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-ol
A mixture of 2-(2,4-dichlorophenyl)-3-methyl-1H-pyrrol-1-amine (2.34 g, 9.69 mmol), ethyl trans-3-ethoxycrotonate (1.58 g, 10.0 mmol) and p-toluenesulfonic acid (0.095 g, 0.50 mmol) in CHCl3 (100 mL) is refluxed with a Dean-Stark tube charged with molecular sieves for 24 h. After cooling down to room temperature, the mixture is concentrated in vacuo to dryness and the residue is subjected to column chromatography (silica gel, 1/4 EtOAc/heptane) to give 1.88 g (63%) of light yellow solid as the title compound: mp 234–237° C.; 1H NMR (400 MHz, DMSO-d6) δ 7.76 (d, J=2.1 Hz, 1H), 7.52 (dd, J=2.1, 8.3 Hz, 1H), 7.44 (d, J=8.3 Hz, 1H), 6.49 (s, 1H), 5.94 (s, 1H), 2.20 (s, 3H), 2.10 (s, 3H); 13C NMR (100 MHz, DMSO-d6) δ 153.0, 149.0, 134.2, 135.2, 132.0, 128.2, 127.6, 125.7, 121.2, 119.0, 118.8, 96.0, 92.5, 20.0, 10.5; IR (diffuse reflectance) 3075, 3008, 2997, 2989, 2353, 2327, 2216, 2190, 2105, 1555, 1367, 1314, 1185, 828, 814 cm−1; MS (EI) m/z 308 (M+), 306 (M+); HRMS (FAB) calcd for C15H12Cl2N2O+H 307.0405, found 307.0414; Anal. Calcd for C15H12Cl2N2O: C, 58.65; H, 3.94; N, 9.12. Found: C, 58.68; H, 3.91; N, 8.96.

reactant | 2-(2,4-dichlorophenyl)-3-methyl-1H-pyrrol-1-amine | 9.69 mmol, 2.34 g | ClC1=C(C=CC(=C1)Cl)C=1N(C=CC1C)N | C11H10Cl2N2
reactant | ethyl trans-3-ethoxycrotonate | 10.0 mmol, 1.58 g | CCO/C(=C/C(=O)OCC)/C | C8H14O3
reactant | p-toluenesulfonic acid | 0.50 mmol, 0.095 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-(2.4-dichlorophenyl)-2,6-dimethylpyrrolo[1,2-b]pyridazin-4-ol | ClC1=C(C=CC(=C1)Cl)C1=C(C=C2N1N=C(C=C2O)C)C | C15H12Cl2N2O
